US06664260B2
Under an atmosphere of nitrogen, N5-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinoline-4,5-diamine (2.48 g, 6.82 mmol) was dissolved in toluene (40 ml). Trimethyl orthovalerate (1.29 ml, 7.51 mmol) was added via syringe. A catalytic amount of pyridine hydrochloride was added to the reaction and the flask was fitted with a Dean-Stark trap. The reaction was heated to reflux and the volatiles were collected in the trap. After 4 hours, the reaction was cooled to room temperature and quenched by the addition of water (30 ml). The phases were separated and the aqueous phase was extracted with ethyl acetate (3×15 ml). The combined organic fractions were washed with brine (25 ml), dried (Na2SO4), filtered and concentrated in vacuo to provide a red/brown oil. The material was purified by flash column chromatography (silica gel, 2/1 to 95/5 ethyl acetate/hexane gradient) to yield 1.98 g of 2-butyl-6-[2-(3-pyridin-3-ylpropoxy)ethyl]-6H-imidazo[4,5-c]tetrazolo[1,5-a]quinoline as an orange oil.

reactant | N5-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinoline-4,5-diamine | 6.82 mmol, 2.48 g | N1=CC(=CC=C1)CCCOCCNC1=C(C=2N(C3=CC=CC=C13)N=NN2)N | C19H21N7O
reactant | Trimethyl orthovalerate | 7.51 mmol, 1.29 ml | C(CCCC)(OC)(OC)OC | C8H18O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-butyl-6-[2-(3-pyridin-3-ylpropoxy)ethyl]-6H-imidazo[4,5-c]tetrazolo[1,5-a]quinoline | 1.98 g | C(CCC)N1NN2C(C3=C(C4=CC=CC=C24)N(C=N3)CCOCCCC=3C=NC=CC3)=N1 | C24H29N7O
